US08623889B2
1-(3-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol
Tetrabutylammonium fluoride (1.0 mol/L) in THF (1.2 mL, 1.20 mmol) was added dropwise to a solution of 3-bromo-4-methyl-pyridine-2-carbaldehyde (150 mg, 0.75 mmol), and (trifluoromethyl)trimethylsilane (2.0 mol/L) in THF (0.49 mL, 0.975 mmol) in THF (10 mL) cooled at −15° C. The reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (25 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (12 g, Silica, 0-30% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (90 mg, 44%), which was used in the next step without further purification.

reactant | Tetrabutylammonium fluoride | 1.0 mol/L | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-bromo-4-methyl-pyridine-2-carbaldehyde | 0.75 mmol, 150 mg | BrC=1C(=NC=CC1C)C=O | C7H6BrNO
reactant | (trifluoromethyl)trimethylsilane | 2.0 mol/L | FC(F)(F)[Si](C)(C)C | C4H9F3Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.975 mmol, 0.49 mL | C1CCOC1 | C4H8O
solvent | THF | 1.20 mmol, 1.2 mL | C1CCOC1 | C4H8O
product | 1-(3-bromo-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol | 90 mg, 44% | BrC=1C(=NC=CC1C)C(C(F)(F)F)O | C8H7BrF3NO
